US09216980B2
Step 2: Trifluoromethanesulfonic acid 3,5-dimethoxy-4-piperidin-1-ylmethyl-phenyl ester
To a cooled solution (−20° C.) of 3,5-dimethoxy-4-piperidin-1-ylmethyl-phenol (0.22 g, 0.88 mmol) and pyridine (1.0 mL) in DCM (5 mL) was added trifluoromethanesulfonic anhydride (0.18 mL, 1.05 mmol) over 5 minutes. After complete addition, the reaction mixture was allowed to warm to ambient temperature and stirring was continued for 2 h. The resultant mixture was diluted with DCM (50 mL) and washed with water (20 mL). The organic phase was separated, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The resultant residue was purified by flash column chromatography (silica, 5 g, SPE column, 0-50% ethyl acetate in cyclohexane) to afford an orange oil which crystallized on standing to yield the title compound (93 mg, 28%). 1H NMR (CDCl3, 300 MHz): 6.44 (s, 2H), 3.81 (s, 6H), 3.60 (s, 2H), 2.46 (t, J=5.0 Hz, 4H), 1.56 (p, J=5.8 Hz, 4H), 1.43-1.36 (in, 2H). LCMS (Method B): RT=2.77 min, M+H+=384.

reactant | 3,5-dimethoxy-4-piperidin-1-ylmethyl-phenol | 0.88 mmol, 0.22 g | COC=1C=C(C=C(C1CN1CCCCC1)OC)O | C14H21NO3
reactant | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.05 mmol, 0.18 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3,5-dimethoxy-4-piperidin-1-ylmethyl-phenyl ester | 93 mg, 28% | COC=1C=C(C=C(C1CN1CCCCC1)OC)OS(=O)(=O)C(F)(F)F | C15H20F3NO5S
